2145-12-13 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERICARDIOCENTESIS - At [**2145-12-12**] 12:00 PM
   460cc drainage, bloody
   Right heart cath showed equalization of diastolic pressures c/w
   tamponade
   Pericardial pressure was equal to RA pressure c/w tamponade prior to
   drainage
   After drain placed, RA pressure fell and pericardial pressure negative
   Echo confirmed only very minimal effusion
   Tylenol for subxyphoid pain
   Pericardial Fluid Analysis:
   WBC 2556, 27% PMNs, 46% Lymphs, 0 Monos, 2 Eos, 1 Meso, 24 Macros
   Hct 10.5
   TProt 3.9, LDH 1185, Glc 83, [**Doctor First Name 293**] 29, Alb 2.9
   Gram Stain: 2+ PMNs, no microorganisms; cultures pending
   Cytology pending, Flow cytometry pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Reports previous history of difficulty swallowing food when eating. Now
   improved.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-13**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 83 (72 - 107) bpm
   BP: 105/59(71) {68/47(50) - 136/84(101)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                   Pulsus 0 (zero)
   Total In:
                                                                    520 mL
                                  PO:
                                                                    520 mL
                                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                      0 mL
   Urine:
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
                                                                    910 mL
   Balance:
                                                                 -2,640 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   General: WD/WN middle aged female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple, +JVD with Kussmaul
s sign.
   CV: PMI located in 5th intercostal space, midclavicular line. Regular
   rhythm, tachycardic, normal S1-S2. No m/g. No thrills, lifts. + 3^rd
   heart sound ?pericardial knock.
   Chest: No chest wall deformities, scoliosis or kyphosis. Tachypneic,
   resp were unlabored, no accessory muscle use. Decreased breath sounds
   at bilateral bases.  +Egophony in left back. Pericardial drain in place
   with bloody fluid.
   Abd: Soft, mild distenstion. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits. No fluid wave.
   Ext: 2+ bilateral LE edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   206 K/uL
   94 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   10 mg/dL
   108 mEq/L
   141 mEq/L
   39.0 %
   6.8 K/uL
        [image002.jpg] Ca 8.5, Mg 1.6, Phos 3.7
                            [**2145-12-12**]  04:30 AM
   WBC
   4.7
   Hct
   34.8
   Plt
   208
   Cr
   0.6
   Glucose
   95
   Other labs: Amylase / Lipase:49/21, Albumin:3.4 g/dL, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 EDEMA, PERIPHERAL
 PERICARDIAL EFFUSION WITH TAMPONADE
   ASSESSMENT AND PLAN: Ms. [**Known lastname 3575**] is a 70 year old female with no
   significant medical history who presents with LE edema and chest pain
   found to have bilateral pleural effusions and pericardial effusion with
   tamponade.
   .
   # Pericardial effusion: Patient describing worsening heart failure
   symptoms over the last month, found to have a large pericardial
   effusion with tamponade physiology.  Most likely sub-acute to chronic
   process.  While generalized differiential can include idiopathic vs.
   malignant vs. uremic (nl BUN/Cr today) vs. post-MI vs infectious
   (viral?, normal white count) vs autoimmune vs hypothyroidism, the most
   concerning diagnosis would be malignant effusion.  TSH normal, no
   history to suggest MI, normal BUN and Cr.  Reportedly up to date on
   screening, except colonoscopy.  No evidence of pulmonary process on
   chest XR.  Patient without history of recent viral URI, but had oral
   herpes three months ago. No other clear source of effusion. Chest CT
   and Pelvic U/S without concerning findings. Patient hemodynamically
   stable, but will require close monitoring, as P-V relationship obeys
   exponential property. Now s/p pericardiocentesis with drain placement,
   fluid analysis showed elevated WBC, ?concern for lymphomatous process
   vs. other malignancy.
   - f/u pending pericardial fluid analysis studies: cytology, flow
   cytometry, cultures, [**Doctor First Name **], cholesterol, total complement
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], CA [**55**]-9, still pending
   - CT-Torso w/ contrast to evaluate for possible source of effusion
   - continue close monitoring of HR, BP, and regular checking of pulsus
   - consider thoracentesis w/ pleural biopsy and fluid analysis
   - Hold IVF given hemodynamic stability and elevated RAP
   .
   # Pleural effusions: Could be related to heart failure versus
   serosistis process also causing pericardial effusion.  BNP is normal,
   and no evidence of CHF on XR.  Potential for meig's syndrome would fit
   constellation of symtpoms, and will get pelvic u/s to evaluate for
   ovarian malignancy.  Could also be consistent with autoimmune process
   or viral.
   - consider thoracentesis w/ pleural biopsy and fluid analysis if
   pericardial fluid analysis unrevealing
   .
   #. CAD: EKG without ischemic changes. First set negative.  Have low
   suspicion of ACS process, and more likely pericardic pain.
   - Will not continue to cycle enzymes
   .
   #. Rhythm: Monitor on telemetry
   .
   #. FEN:
   - Follow and replete electrolytes.
   - IVF to augment pre-load
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  Well-controlled
   Lines:
   20 Gauge - [**2145-12-12**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  with patient and family.  Comments:
   Code status: FULL CODE
   Disposition: CCU

2145-12-14 06:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-12-14**] 12:45 AM
 NASAL SWAB - At [**2145-12-14**] 04:50 AM
   Routine weekly MRSA screen
   CT-Torso done, dictation:
   Unchanged bilateral pleural effusions w/ compressive atelectasis, no
   suspiscious lesion
   Newly placed pericardial drain, decrease in size of pericardial
   effusion (now trace)
   No LAD
   Spleen, adrenals, pancreas, gallbladder, stomach, and proximal small
   bowel unremarkable.
   Tiny lesions in 2 and 4a and 8 in liver, possibly hepatic cysts
   No LAD
   Small amount of free fluid; bladder distended; uterus unremarkable.
   Rectum and colon unremarkable.
   No LAD
   No suspicious bony lesions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-14**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 76 (69 - 133) bpm
   BP: 103/67(75) {92/56(59) - 138/93(97)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,020 mL
                                                                     60 mL
   PO:
                                                                  1,020 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                    700 mL
   Urine:
                                                                  4,000 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                    125 mL
   Balance:
                                                                 -3,105 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General: WD/WN middle aged female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple, +JVD with Kussmaul
s sign.
   CV: PMI located in 5th intercostal space, midclavicular line. Regular
   rhythm, tachycardic, normal S1-S2. No m/g. No thrills, lifts. + 3^rd
   heart sound ?pericardial knock.
   Chest: No chest wall deformities, scoliosis or kyphosis. Tachypneic,
   resp were unlabored, no accessory muscle use. Decreased breath sounds
   at bilateral bases.  +Egophony in left back. Pericardial drain in place
   with bloody fluid.
   Abd: Soft, mild distenstion. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits. No fluid wave.
   Ext: 2+ bilateral LE edema. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   230 K/uL
   13.5 g/dL
   86 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   9 mg/dL
   109 mEq/L
   141 mEq/L
   38.8 %
   7.3 K/uL
        [image002.jpg]
                            [**2145-12-12**]  04:30 AM
                            [**2145-12-13**]  05:30 AM
                            [**2145-12-14**]  01:08 AM
   WBC
   4.7
   6.8
   7.3
   Hct
   34.8
   39.0
   38.8
   Plt
   [**Telephone/Fax (3) 3624**]
   Cr
   0.6
   0.5
   0.5
   Glucose
   95
   94
   86
   Other labs: PT / PTT / INR:13.9/25.8/1.2, Amylase / Lipase:49/21,
   Albumin:3.4 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **] negative.
   Assessment and Plan
 PLEURAL EFFUSION, ACUTE
 EDEMA, PERIPHERAL
 PERICARDIAL EFFUSION WITH TAMPONADE
   ASSESSMENT AND PLAN: Ms. [**Known lastname 3575**] is a 70 year old female with no
   significant medical history who presents with LE edema and chest pain
   found to have bilateral pleural effusions and pericardial effusion with
   tamponade.
   .
   # Pericardial effusion: Patient describing worsening heart failure
   symptoms over the last month, found to have a large pericardial
   effusion with tamponade physiology.  Most likely sub-acute to chronic
   process.  While generalized differiential can include idiopathic vs.
   malignant vs. uremic (nl BUN/Cr today) vs. post-MI vs infectious
   (viral?, normal white count) vs autoimmune vs hypothyroidism, the most
   concerning diagnosis would be malignant effusion.  TSH normal, no
   history to suggest MI, normal BUN and Cr.  Reportedly up to date on
   screening, except colonoscopy.  No evidence of pulmonary process on
   chest XR.  Patient without history of recent viral URI, but had oral
   herpes three months ago. No other clear source of effusion. Chest CT
   and Pelvic U/S without concerning findings. Patient hemodynamically
   stable, but will require close monitoring, as P-V relationship obeys
   exponential property. Now s/p pericardiocentesis with drain placement,
   fluid analysis showed elevated WBC, ?concern for lymphomatous process
   vs. other malignancy.
   - f/u pending pericardial fluid analysis studies: cytology, flow
   cytometry, cultures, [**Doctor First Name **], cholesterol, total complement
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], CA [**55**]-9, still pending
   - CT-Torso w/ contrast to evaluate for possible source of effusion
   - continue close monitoring of HR, BP, and regular checking of pulsus
   - consider thoracentesis w/ pleural biopsy and fluid analysis
   - Hold IVF given hemodynamic stability and elevated RAP
   .
   # Pleural effusions: Could be related to heart failure versus
   serosistis process also causing pericardial effusion.  BNP is normal,
   and no evidence of CHF on XR.  Potential for meig's syndrome would fit
   constellation of symtpoms, and will get pelvic u/s to evaluate for
   ovarian malignancy.  Could also be consistent with autoimmune process
   or viral.
   - consider thoracentesis w/ pleural biopsy and fluid analysis if
   pericardial fluid analysis unrevealing
   .
   #. CAD: EKG without ischemic changes. First set negative.  Have low
   suspicion of ACS process, and more likely pericardic pain.
   - Will not continue to cycle enzymes
   .
   #. Rhythm: Monitor on telemetry
   .
   #. FEN:
   - Follow and replete electrolytes.
   - IVF to augment pre-load
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-12**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2145-12-15 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   pericardial catheter removed. No acute event.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-15**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 79 (76 - 99) bpm
   BP: 116/74(84) {92/57(66) - 125/79(91)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    500 mL
                  PO:
                                                                    500 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,100 mL
   Urine:
                                                                  2,300 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,800 mL
                                                                 -1,100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   13.3 g/dL
   90 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   39.2 %
   5.4 K/uL
        [image002.jpg]
                            [**2145-12-12**]  04:30 AM
                            [**2145-12-13**]  05:30 AM
                            [**2145-12-14**]  01:08 AM
                            [**2145-12-15**]  05:26 AM
   WBC
   4.7
   6.8
   7.3
   5.4
   Hct
   34.8
   39.0
   38.8
   39.2
   Plt
   [**Telephone/Fax (3) 3646**]45
   Cr
   0.6
   0.5
   0.5
   0.6
   Glucose
   95
   94
   86
   90
   Other labs: PT / PTT / INR:13.9/25.8/1.2, Amylase / Lipase:49/21,
   Albumin:3.4 g/dL, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3575**] is a 70 year old female with no significant medical
   history who presents with LE edema and chest pain found to have
   bilateral pleural effusions and pericardial effusion with tamponade.
   .
   # Pericardial effusion: Patient describing worsening heart failure
   symptoms over the last month, found to have a large pericardial
   effusion with tamponade physiology.  Most likely sub-acute to chronic
   process.  While generalized differiential can include idiopathic vs.
   malignant vs. uremic (nl BUN/Cr today) vs. post-MI vs infectious
   (viral?, normal white count) vs autoimmune vs hypothyroidism, the most
   concerning diagnosis would be malignant effusion.  TSH normal, no
   history to suggest MI, normal BUN and Cr.  Reportedly up to date on
   screening, except colonoscopy.  No evidence of pulmonary process on
   chest XR.  Patient without history of recent viral URI, but had oral
   herpes three months ago. No other clear source of effusion. Chest CT
   and Pelvic U/S without concerning findings. Patient hemodynamically
   stable, but will require close monitoring, as P-V relationship obeys
   exponential property. Now s/p pericardiocentesis with drain placement,
   fluid analysis showed elevated WBC, ?concern for lymphomatous process
   vs. other malignancy. [**Doctor First Name **] negative.
   - f/u pending pericardial fluid analysis studies: cytology, flow
   cytometry, cultures, [**Doctor First Name **], cholesterol, total complement
   - f/u final read of torso CT
   - continue close monitoring of HR, BP, and regular checking of pulsus
   - GI consult for possible endoscopy
   - consider thoracentesis w/ pleural biopsy and fluid analysis
   - Hold IVF given hemodynamic stability and elevated RAP
   - pull catheter if drainage < 50 ml
   .
   # Pleural effusions: Could be related to heart failure versus
   serosistis process also causing pericardial effusion.  BNP is normal,
   and no evidence of CHF on XR.  Potential for meig's syndrome would fit
   constellation of symtpoms, and will get pelvic u/s to evaluate for
   ovarian malignancy.  Could also be consistent with autoimmune process
   or viral.
   - consider thoracentesis w/ pleural biopsy and fluid analysis if
   pericardial fluid analysis unrevealing
   .
   #. CAD: EKG without ischemic changes. First set negative.  Have low
   suspicion of ACS process, and more likely pericardic pain.
   - Will not continue to cycle enzymes
   .
   #. Rhythm: Monitor on telemetry
   .
   #. FEN:
   - Follow and replete electrolytes.
   - IVF to augment pre-load
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-12-14**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: